US09102662B2
N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide [(VIII), R1=R2=R3=H, R=3,5-difluorophenyl, PG1=trifluoroacethyl]
A suspension of (3-amino-1H-indazol-5-yl)-(3,5-difluoro-phenyl)-methanone (2.73 g, 10 mmol) in dry tetrahydrofuran (120 mL) was treated with trifluoroacetic anhydride (4.2 mL, 30 mmol) and stirred 1 hour at room temperature. The solution was evaporated, treated with methanol and further evaporated to dryness. The residue was redissolved in ethyl acetate and washed with aqueous bicarbonate. The organic phase was separated, dried and evaporated. The solid was triturated with a small amount of dichloromethane and filtered affording 3.25 g (88% yield) of title compound.

reactant | (3-amino-1H-indazol-5-yl)-(3,5-difluoro-phenyl)-methanone | 10 mmol, 2.73 g | NC1=NNC2=CC=C(C=C12)C(=O)C1=CC(=CC(=C1)F)F | C14H9F2N3O
reactant | trifluoroacetic anhydride | 30 mmol, 4.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | 3.25 g, 88% yield | FC=1C=C(C(=O)C=2C=C3C(=NNC3=CC2)NC(C(F)(F)F)=O)C=C(C1)F | C16H8F5N3O2
